US06060455
Synthesis of N-tert.-butyloxycarbonyl-1,3-dihydroxy-propylamine 7
A solution of 1.07 (5 mmol) Boc2O, 697 μl (5 mmol) triethylamine and 456 mg (5 mmol) 2-amino-1,3-propanediol in 10 ml THF/water (1:1) was stirred overnight at room temperature in a round-bottom flask. After removing the THF on a rotary evaporator, 50 ml ethyl aceatate and 10 ml saturated NaCl solution was added. The organic phase was washed with 10 ml saturated NaCl solution and dried over Na2SO4. After removing the solvent 589 mg (62%) 7 was obtained as colourless crystals. Melting point 83-85° C.

reactant | Boc2O | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 5 mmol, 697 μl | C(C)N(CC)CC | C6H15N
reactant | 2-amino-1,3-propanediol | 5 mmol, 456 mg | NC(CO)CO | C3H9NO2
solvent | THF water | 10 ml | C1CCOC1.O
product | N-tert.-butyloxycarbonyl-1,3-dihydroxy-propylamine | C(C)(C)(C)OC(=O)NC(CCO)O | C8H17NO4
